US05352684
U. 5-Acetyl-1,4-dihydro-2,6-dimethyl-3-[5-(4-diphenylmethylene-1-piperidinyl)-pentanoyl]-4-(3-nitrophenyl)-pyridine
4.7 g (12 mmol) 5-acetyl-1,4-dihydro-2,6-dimethyl-3-(5-chloropentanoyl)-4-(3-nitrophenyl)-pyridine and 3 g (14 mmol) 4-diphenylmethylenepiperidine are boiled under reflux with 1.9 g (12 mmol) sodium iodide and 5 g (48 mmol) sodium carbonate in 200 ml acetone for 5 days. The mixture is filtered and concentrated, and the residue is taken up in 100 ml ethyl acetate. This solution is extracted by shaking with 40 ml sodium thiosulphate solution (5%). The organic phase is dried over magnesium sulphate, filtered and concentrated. The residue is chromatographed with toluene/acetone=6/4, The title compound is obtained as a yellow oil. Yield: 2.2 g (32%).

reactant | 5-acetyl-1,4-dihydro-2,6-dimethyl-3-(5-chloropentanoyl)-4-(3-nitrophenyl)-pyridine | 12 mmol, 4.7 g | C(C)(=O)C=1C(C(=C(NC1C)C)C(CCCCCl)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C20H23ClN2O4
reactant | 4-diphenylmethylenepiperidine | 14 mmol, 3 g | C1(=CC=CC=C1)C(=C1CCNCC1)C1=CC=CC=C1 | C18H19N
reactant | sodium iodide | 12 mmol, 1.9 g | [I-].[Na+]
reactant | sodium carbonate | 48 mmol, 5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 5-Acetyl-1,4-dihydro-2,6-dimethyl-3-[5-(4-diphenylmethylene-1-piperidinyl)-pentanoyl]-4-(3-nitrophenyl)-pyridine | C(C)(=O)C=1C(C(=C(NC1C)C)C(CCCCN1CCC(CC1)=C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C38H41N3O4
